US05952362
N-(3-chloro-5-cyanomethyl-2-methylphenyl) methanesulfonamide was prepared from (3-amino-5-chloro-4-methylphenyl) acetonitrile in a manner similar to that described in Example 1 for the preparation of N-(3-cyanomethoxyphenyl)-methanesulfonamide from (3-aminophenoxy)-acetonitrile.

reactant | (3-amino-5-chloro-4-methylphenyl) acetonitrile | NC=1C=C(C=C(C1C)Cl)CC#N | C9H9ClN2
reactant | N-(3-cyanomethoxyphenyl)-methanesulfonamide | C(#N)COC=1C=C(C=CC1)NS(=O)(=O)C | C9H10N2O3S
reactant | (3-aminophenoxy)-acetonitrile | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
product | N-(3-chloro-5-cyanomethyl-2-methylphenyl) methanesulfonamide | ClC=1C(=C(C=C(C1)CC#N)NS(=O)(=O)C)C | C10H11ClN2O2S
